* D:\Dropbox\Sats-systems-simulator\lt-spice\Tia-rf-study-200k-opa657.asc
C2 v2 0 35pF
V2 N001 0 5
R8 Vout v2 400k
XU2 0 v2 N001 0 Vout OPA657
I2 v2 0 AC 10E-7
C1 Vout v2 2pF
;ac dec 100 1k 50000k
.inc D:\ExternalPrgmFiles\LTC\lib\sbom137e\OPA657.lib
.lib opamp.sub
.noise V(Vout) v2 dec 100 10 5k
* ;step dec param Rf 10k 50k 3
.lib UniversalOpamps2.sub
.backanno
.end
